US06143779
Synthesis of 2-[(3-methyl-4-methoxyphenyl)methylene]-6-methoxy-3(2H)-benzofuranone
To a solution of 2-[(3-methyl-4-methoxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone 0.477 g, potassium carbonate 0.583 g and dimethylformamide 5 ml, methyl p-toluenesulfonate 0.314 g was added. After the mixture was stirred for two hours at a temperature of 60° C., water 100 ml was added. The resulting compound was extracted with ethyl acetate 50 ml twice. The ethyl acetate solution was washed with a saturated sodium chloride solution 50 ml twice, dehydrated with anhydrous magnesium sulfate, and concentrated at a temperature of 40° C. under reduced pressure to obtain crude powder. The residue was fractionated by silica gel column chromatography (silica gel: 50 g, eluted with solvent 500 ml of hexane:ethyl acetate=1:1) and the fraction was concentrated to dryness at a temperature of 40° C. under reduced pressure to obtain crystals. The crystals were dissolved in ethyl acetate 2 ml and hexane 10 ml, and the solution was allowed to stand at room temperature for two hours. The precipitated crystals were filtered and dried over phosphorous pentoxide at a temperature of 60° C. for four hours under reduced pressure to obtain the desired compound 371.6 mg.

reactant | 2-[(3-methyl-4-methoxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone | 0.477 g | CC=1C=C(C=CC1OC)C=C1OC2=C(C1=O)C=CC(=C2)O | C17H14O4
reactant | potassium carbonate | 0.583 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | methyl p-toluenesulfonate | 0.314 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | 2-[(3-methyl-4-methoxyphenyl)methylene]-6-methoxy-3(2H)-benzofuranone | 371.6 mg | CC=1C=C(C=CC1OC)C=C1OC2=C(C1=O)C=CC(=C2)OC | C18H16O4
